US07851072B2
To a suspension of paraformaldehyde (46.2 g, 1.54 mol) and N-methylanilinium trifluoroacetate (TAMA, 46.2 g, 1.54 mol) in 340 mL of dry THF was added α-tetralone (50 g, 0.342 mol). The solution was heated at reflux under nitrogen with stirring for 4 h, during which time the paraformaldehyde dissolved. After cooling, diethyl ether (700 mL) was added to the reaction mixture. The solvent was separated from the reaction mixture and washed with 500 mL of saturated sodium bicarbonate. Additional diethyl ether was added to the reaction mixture, separated and used to back extract the aqueous sodium bicarbonate layer. The combined organic layers were dried over magnesium sulfate, and the solution was then concentrated to a volume of approximately 300 mL and filtered through Celite. Complete evaporation of the ether yielded 50 g (90%) of crude 2-methylene-3,4-dihydronaphthalen-1-one, which was used immediately for the next reaction to prevent polymerization of the product.

reactant | paraformaldehyde | 1.54 mol, 46.2 g | C=O | CH2O
reactant | N-methylanilinium trifluoroacetate | 1.54 mol, 46.2 g | FC(C(=O)[O-])(F)F.C[NH2+]C1=CC=CC=C1
reactant | α-tetralone | 0.342 mol, 50 g | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | diethyl ether | 700 mL | C(C)OCC | C4H10O
solvent | THF | 340 mL | C1CCOC1 | C4H8O
product | 2-methylene-3,4-dihydronaphthalen-1-one | 50 g, 90% | C=C1C(C2=CC=CC=C2CC1)=O | C11H10O
